US06121264
1,4-Diaminobutane (4.19 g) was dissolved in tetrahydrofuran (THF: 300 ml) to which, at -10° C., was subsequently added dropwise 2,4-difluoronitrobenzene (3.00 g) dissolved in THF (100 ml). The reaction solution was warmed up to room temperature, stirred for 3 hours and then mixed with di-tert-butyl dicarbonate (8.22 g). The reaction solution was further stirred overnight, the thus formed insoluble matter was separated by filtration, the resulting filtrate was concentrated, and a mixed solution (150 ml) of n-hexane:ethyl acetate=1:2 was added to the residue. The thus formed insoluble matter was again separated by filtration and then the filtrate was concentrated under a reduced pressure. The resulting yellow solid was purified by a silica gel column chromatography (n-hexane:ethyl acetate=1:2) to give N-(4-tert-butoxycarbonylaminobutyl)-5-fluoro-2-nitroaniline (4.67 g). The resulting aniline compound (3.20 g) and imidazole (4.00 g) were dissolved in DMSO (50 ml). The solution was stirred at 150° C. for 4 hours, spontaneously cooled down to room temperature and, after addition of water (500 ml), extracted with ethyl acetate and then washed with water. The organic layer was dried over anhydrous sodium sulfate and then concentrated, and the resulting solid substance was washed with water and dried under a reduced pressure to give N-(4-tert-butoxycarbonylaminobutyl)-5-(1H-imidazol-1-yl)-2-nitroaniline (3.13 g). In an atmosphere of hydrogen, the thus formed product (3.00 g) was subjected to 4 hours of reduction in ethanol under ordinary pressure, using palladium-carbon as the catalyst. The reaction solution was filtered and concentrated under a reduced pressure. Then, oxalic acid (2.16 g) and 4 N hydrochloric acid (40 ml) were added to the residue, followed by heating under reflux for 8 hours. The reaction solution was filtered, and the resulting filtrate was concentrated to about half of the volume. The thus precipitated crystals were collected by filtration and dried under a reduced pressure to give 1-(4-aminobutyl)-7-(1H-imidazol-1-yl)-2,3(1H,4H)-quinoxalinedione dihydrochloride (2.87 g).

reactant | 1,4-Diaminobutane | 4.19 g | NCCCCN | C4H12N2
reactant | 2,4-difluoronitrobenzene | 3.00 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | di-tert-butyl dicarbonate | 8.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(4-tert-butoxycarbonylaminobutyl)-5-fluoro-2-nitroaniline | 4.67 g | C(C)(C)(C)OC(=O)NCCCCNC1=C(C=CC(=C1)F)[N+](=O)[O-] | C15H22FN3O4
